US09126993B2
quinuclidin-3-yl 2′-methoxybiphenyl-2-ylcarbamate
Using general procedure E, quinuclidin-3-yl2-bromophenylcarbamate, 2-methoxyphenylboronic acid and [PdCl2(pddf)]CH2Cl2 gave the title compound as a white solid (102 mg, 72%). 1H NMR (500 MHz, CDCl3) δ 7.95 (br s, 1H), 7.42 (t, J=7.5 Hz, 1H), 7.37 (t, J=7.5 Hz, 1H), 7.25 (d, J=7.5 Hz, 1H), 7.15 (t, J=7.5 Hz, 1H), 7.09 (t, J=7.5 Hz, 1H), 7.04 (d, J=8.5 Hz, 1H), 6.72 (br s, 1H), 4.76 (m, 1H), 3.82 (s, 3H), 3.23 (m, 1H), 2.90-2.64 (m, 5H), 1.98-2.08 (m, 1H), 1.81-1.63 (m, 2H), 1.60-1.50 (m, 1H), 1.42-1.30 (m, 1H) ppm. 13C NMR (125 MHz, CDCl3) δ 156.2, 153.8, 135.6, 132.1, 130.9, 129.7, 128.3, 127.1, 123.8, 121.5, 111.3, 71.8, 55.7, 55.5, 47.3, 46.5, 25.3, 24.5, 19.4 ppm. Purity: 100% LCMS (214 nm & 254 nm); retention time 1.48 min; (M+1) 353.

reactant | quinuclidin-3-yl2-bromophenylcarbamate | N12CC(C(CC1)CC2)OC(NC2=C(C=CC=C2)Br)=O | C14H17BrN2O2
reactant | 2-methoxyphenylboronic acid | COC1=C(C=CC=C1)B(O)O | C7H9BO3
product | quinuclidin-3-yl 2′-methoxybiphenyl-2-ylcarbamate | 102 mg, 72% | COC1=C(C=CC=C1)C1=C(C=CC=C1)NC(OC1CN2CCC1CC2)=O | C21H24N2O3
